Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
doxycycline / Penicillins
 
Attending: ___
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ female on Coumadin for A.Fib, who 
presents
to ___ on ___ with a mild TBI. Patient states
she was at a radiation appointment for Basal cell carcinoma on 
he
nose, where upon leaving the appointment the patient tripped and
fell. She states that she fell backwards and hit her head on
concrete. She denies LOC and is able to recall the entire event.
She denies confusion, memory difficulties, dizziness, nausea or
vomiting. She does note that she has a headache but it is not 
bad
and relieved with Tylenol. She denies weakness, numbness, or
tingling in extremities. She denies CP or SOB. 
 
Past Medical History:
- T2DM
- HTN
- HLD
- A.fibb
- Basal cell carcinoma of the skin on the Nose. 
 
Social History:
___
Family History:
NC
 
Physical Exam:
ON ADMISSION
============
T:98.4    BP:116/83     HR:66     RR:18    O2 Sat:97%RA

GCS at the scene: Unknown 

GCS upon Neurosurgery Evaluation: 15

Time of evaluation: 1600

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: Slight Anisocoria R>L, ___, TM, EOMI
Neck: Supple
Extrem: warm and well perfused

Neuro: 

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils Slight Anisocoric R>L, round and reactive, R4-3.5,
L3.5-3. BIlateral surgical pupils
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Not tested.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

ON DISCHARGE
============
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  Right  ___ Br                  Left ___ Br
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
Trap  DeltoidBicepTricepGrip
Right5     5          5         5     5
Left5     5          5         5     5

IPQuadHamATEHLGast
Right5     5          5       5       5  5
Left5     5          5       5       5        5

 
Pertinent Results:
See OMR
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to ___ with traumatic SDH.  
Her INR was 2.7 on admission and was reversed with Vitamin K and 
FFP.  Repeat ___ showed stable hemorrhage.  The patient 
remained neurologically and hemodynamically stable.  She was 
evaluated by physical therapy who cleared her for discharge 
home.  On HD#1, she was discharged home in stable condition.
 
Medications on Admission:
Amiodarone 200mg tablet, take 0.5 (one half) tab PO daily, 
Chlorthalidone 25mg tablet, take 0.5 (half tablet) PO daily, 
Desonide (dose and frequency unknown), Lisinopril 20mg tablet, 2 
tablets PO daily, Meclizine 25mg tablet, 1 tab PO daily, 
Metformin 500mg tablet, 2 tabs PO daily, Pravastatin 40mg 
tablet, 1 tab PO in evening, Warfarin 2.5mg tab, 1 tab PO daily, 
Tylenol (unknown dose and frequency), Vitamin D3 (unknown dose 
and frequency) 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Amiodarone 100 mg PO DAILY  
4.  Chlorthalidone 12.5 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
7.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subdural hematoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
Restarting your Coumadin will be discussed at your follow-up 
appointment.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptom after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___